US07612055B2
xx) 1-Bromo-3-bromomethyl-5-methyl-benzene
To a solution of 5 ml (36.8 mmol) 5-bromo-m-xylene and 6.55 g (36.8 mmol) N-bromo-succinimide in 35 ml tetrachloromethane is added 0.138 ml (0.74 mmol) tert-butyl-perbenzoate. The mixture is irradiated using a heating lamp and stirred for 3 hrs at reflux temperature. The mixture is cooled to room temperature, filtered and evaporated. The product is isolated by chromatography on silica gel (flashmaster, hexane) to give the title compound as white crystals.

reactant | 5-bromo-m-xylene | 36.8 mmol, 5 ml | BrC=1C=C(C=C(C1)C)C | C8H9Br
reactant | N-bromo-succinimide | 36.8 mmol, 6.55 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | tert-butyl-perbenzoate | 0.74 mmol, 0.138 ml | C(C)(C)(C)OOC(C1=CC=CC=C1)=O | C11H14O3
solvent | tetrachloromethane | 35 ml | ClC(Cl)(Cl)Cl | CCl4
product | 1-Bromo-3-bromomethyl-5-methyl-benzene | BrC1=CC(=CC(=C1)C)CBr | C8H8Br2
